US07465795B2
4-amino-N-propyl-8-(2,3,4-trimethoxyphenyl)-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (106 mg, 0.34 mmol) and 2,3,4-trimethoxyphenyl boronic acid (206 mg, 0.97 mmol) were reacted to afford the title compound (124 mg, 92.1% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.56 (br, 1H), 7.88 (dd, J=8.2 Hz, J′=1.5 Hz, 1H), 7.76 d, J=6.3 Hz, 1H), 7.69 (t, J=7.6 Hz, 1H), 7.09 (d, J=8.6 Hz, 1H), 6.80 (d, J=8.6 Hz, 1H), 3.94 (s, 3H), 3.92 (s, 3H), 3.62 (s, 3H), 3.45 (q, J=6.7 Hz, 2H), 1.65 (m, J=7.2 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H) MS APCI, m/z=397 (M+H) HPLC 1.70 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.34 mmol, 106 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,3,4-trimethoxyphenyl boronic acid | 0.97 mmol, 206 mg | COC1=C(C=CC(=C1OC)OC)B(O)O | C9H13BO5
product | 4-amino-N-propyl-8-(2,3,4-trimethoxyphenyl)-cinnoline-3-carboxamide | 124 mg, 92.1% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C(=C(C=C1)OC)OC)OC)C(=O)NCCC | C21H24N4O4
